US07838543B2
Step 4. 4′-Fluoro-biphenyl-4-carboxylic acid (2-{[2-(acetyl-methyl-amino)-ethyl]-methyl-amino}-benzothiazol-6-yl)-amide
Add oxalyl chloride (0.20 mL, 2.30 mmol) and 4 drops of DMF to a stirring suspension of 4′-fluoro-biphenyl-4-carboxylic acid (0.243 g, 1.13 mmol) in CH2Cl2 (5.0 mL). Stir the reaction mixture at room temperature for 2 h. Concentrate the mixture in vacuo, add n-hexane, re-concentrate, and re-dissolve in CH2Cl2. Add the resultant 4′-fluoro-biphenyl-4-carbonyl chloride solution to a mixture of rac-N-{2-[(6-amino-benzothiazol-2-yl)-methyl-amino]-ethyl}-N-methyl-acetamide (0.146 g, 0.524 mmol) and pyridine (0.06 mL) in CH2Cl2 (10 mL). Shake the reaction mixture overnight at room temperature. Subject the residue to silica gel flash column chromatography (3×4 g columns, eluting with 5-10% ethyl acetate/n-hexane to remove impurities, then flushing off product with 2N NH3/MeOH). Triturate the residue with CH2Cl2 to yield the desired product as a white solid (0.110 g, 44%). mass spectrum (m/e): 477.0 (M+1).

reactant | oxalyl chloride | 2.30 mmol, 0.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4′-fluoro-biphenyl-4-carboxylic acid | 1.13 mmol, 0.243 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
reactant | rac-N-{2-[(6-amino-benzothiazol-2-yl)-methyl-amino]-ethyl}-N-methyl-acetamide | 0.524 mmol, 0.146 g | NC1=CC2=C(N=C(S2)N(CCN(C(C)=O)C)C)C=C1 | C13H18N4OS
reactant | pyridine | 0.06 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4′-Fluoro-biphenyl-4-carboxylic acid (2-{[2-(acetyl-methyl-amino)-ethyl]-methyl-amino}-benzothiazol-6-yl)-amide | 0.110 g, 44% | C(C)(=O)N(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)C)C | C26H25FN4O2S
